US07067517B2
1-(6-Methoxy-pyridin-3-yl)-pyrrolidine-2,5-dione
A mixture of 5-amino-2-methoxypyridine (1.24 g, 10.0 mmol) and succinic anhydride (1.00 g, 10.0 mmol) was heated with a heat gun for 10 minutes. After cooling to room temperature the product was purified by flash column chromatography (SiO2, ethyl acetate:acetone 25:75). Evaporation of the solvent yielded the title compound as a white solid.

reactant | 5-amino-2-methoxypyridine | 10.0 mmol, 1.24 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | succinic anhydride | 10.0 mmol, 1.00 g | C1(CCC(=O)O1)=O | C4H4O3
product | 1-(6-Methoxy-pyridin-3-yl)-pyrrolidine-2,5-dione | COC1=CC=C(C=N1)N1C(CCC1=O)=O | C10H10N2O3
